US07151105B2
Step 1: (4-Bromo-2-chloro-phenyl)-methanol
4-Bromo-2-chlorobenzoic acid (5 g, 21.23 mmol) was dissolved in dry THF (100 mL) and cooled to 0° C. A 1M solution of BH3.THF in THF (31.85 mL, 31.85 mmol) was slowly added. The reaction was stirred overnight, allowing it to gradually reach room temperature. K2CO3 solid (1 g) and H2O (100 mL) were added and the reaction was stirred for 30 minutes. THF was evaporated and residue extracted with EtOAc (30 mL). The organic phase was washed with 1N HCl (3×50 mL), brine (3×50 mL), dried over Na2SO4 and evaporated. The residue was purified by flash column chromatography (30% EtOAc in hexanes) to give the product (2.80 g, 50%) as a colorless oil. 1H NMR (400 MHz, CDCl3): δ 4.73 (d, J=5.8 Hz, 2H), 7.37 (d, J=8.1 Hz, 1H), 7.42 (dd, J=8.1 Hz, 1.7), 7.52 (d, J=1.7 Hz, 1H)

reactant | 4-Bromo-2-chlorobenzoic acid | 21.23 mmol, 5 g | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | BH3.THF | B.C1CCOC1
reactant | K2CO3 | 1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 100 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 31.85 mmol, 31.85 mL | C1CCOC1 | C4H8O
product | (4-Bromo-2-chloro-phenyl)-methanol | 2.80 g, 50% | BrC1=CC(=C(C=C1)CO)Cl | C7H6BrClO
